US07226942B2
Part VI: 3-Benzyloxycarbonylamino-1-cyanomethyl-1-hydroxy-1,2,3,4-tetrahydronaphthalene
To a stirred solution of n-butyllithium in hexane (42 mL, 1.6 M) under nitrogen at −80° C., was added dry tetrahydrofuran (40 mL). To this was added over a 7 min period a solution of dry acetonitrile (2.8 g, distilled from phosphorus pentoxide) in dry tetrahydrofuran (40 mL). The resulting white suspension was stirred for 1 h at −80° C. After this time, a solution of 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene (9.9 g) in dry tetrahydrofuran (40 mL) was added over a 5 min period. Additional tetrahydrofuran (40 mL) was introduced to facilitate stirring. After an additional 10 min at −80° C., the reaction mixture was allowed to slowly warm to room temperature during a 15 min period. Once at room temperature, the reaction mixture was poured into a mixture of ice, concentrated aqueous hydrochloric acid solution (10 mL), and diethyl ether (100 mL). The organic layer was separated, and the aqueous layer was extracted with diethyl ether (50 mL twice). The combined organic layers were washed with water (50 mL twice), dried, and evaporated to yield a residue. The residue was chromatographed on silica gel to obtain the title compound as a mixture of diastereomers (7.5 g).

reactant | n-butyllithium | C(CCC)[Li]
reactant | acetonitrile | 2.8 g | C(C)#N | C2H3N
reactant | 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene | 9.9 g | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)=O | C18H17NO3
reactant | hydrochloric acid | 10 mL | Cl | ClH
solvent | hexane | 1.6 M, 42 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-Benzyloxycarbonylamino-1-cyanomethyl-1-hydroxy-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)(O)CC#N | C20H20N2O3
